US06951864B2
4-Chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-2-methyl-5-propyl-pyrimidine
A mixture of 5-propyl-6-bromomethyl-4-chloro-pyrimidine (1 mmol), 3-fluoro-2-(1H-imidazol-2-yl)-pyridine (163 mg, 1 mmol), and K2CO3 (552 mg, 4 mmol) in DMF (6 mL) is stirred at room temperature overnight. The solvent is removed in vacuo and EtOAc (10 mL) and water (10 mL) are added to the residue. The layers are separated and the aqueous layer is extracted with EtOAc (10 mL). The combined extracts are washed with brine (10 mL), dried (Na2SO4), and evaporated. Preparative TLC separation of the residue with 5% MeOH in CH2Cl2 provides the title compound as a white solid. 1H-NMR (CDCl3) δ: 8.65 (S, 1H), 8.24 (d, 1H), 7.53 (t, 1H), 7.32 (s, 1H), 7.27-7.22 (m, 1H), 7.12 (s, 1H), 5.87 (s, 2H), 2.76 (t, 2H), 1.68-1.54 (m, 2H), 1.01 (t, 3H).

reactant | 5-propyl-6-bromomethyl-4-chloro-pyrimidine | 1 mmol | C(CC)C=1C(=NC=NC1CBr)Cl | C8H10BrClN2
reactant | 3-fluoro-2-(1H-imidazol-2-yl)-pyridine | 1 mmol, 163 mg | FC=1C(=NC=CC1)C=1NC=CN1 | C8H6FN3
reactant | K2CO3 | 4 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-6-[2-(3-fluoro-pyridin-2-yl)-imidazol-1-ylmethyl]-2-methyl-5-propyl-pyrimidine | ClC1=NC(=NC(=C1CCC)CN1C(=NC=C1)C1=NC=CC=C1F)C | C17H17ClFN5
